US05510376
A solution of m-trifluoromethylphenylglyoxal and 2-amino-4,5-dimethyoxyindane in toluene is refluxed for 2 hours, using a Dean-Stark trap to remove the formed water. The solution is concentrated in vacuo and the residue is dissolved in methyl alcohol. The resulting solution is cooled in ice, sodium borohydride is added in portions and the reaction mixture is stirred at room temperature for 2 hours. The reaction mixture is concentrated in vacuo, the residue is partitioned between water and methylene chloride and the layers are separated. The organic layer is dried over sodium sulfate and concentrated in vacuo to give 1-(3-trifluoromethylphenyl)-2-(4,5-dimethoxyindan-2-yl)aminoethanol. Under anhydrous conditions, tetrahydrofuran, triethylamine and carbonyldiimidazole are added to the above compound and the mixture is stirred at room temperature for 20 hours. The reaction mixture is quenched with water and extracted with diethyl ether. The diethyl ether extracts are combined, washed with 2N hydrochloric acid, saturated sodium chloride, dried over magnesium sulfate. The solution is evaporated in vacuo to give a mixture of (R*,R*) and (R*,S*)-5-(3-trifluoromethylphenyl)-3-(2,3-dihydro-4,5-dimethoxy-1H-inden-2-yl)-2-oxazolidinone. This mixture is separated into the individual (R*,R*) and (R*,S*) racemates by chromatographic techniques described in Example 1. Each racemate is treated with boron tribromide and the individual products are reacted with diethyl dibromomalonate, as described in Example 1, to give (R*,R*) and (R*,S*)-7- 2-(3-trifluoromethylphenyl)-2-hydroxyethyl!amino!-7,8-dihydro-6H-indeno 4,5-d!-1,3-dioxole-2,2-dicarboxylic acid diethyl esters. These products are then hydrolyzed with 2.5N sodium hydroxide, as described in Example 3, to give the desired products.

reactant | m-trifluoromethylphenylglyoxal | FC(C=1C=C(C=CC1)C(=O)C=O)(F)F | C9H5F3O2
reactant | 2-amino-4,5-dimethyoxyindane | NC1CC2=CC=C(C(=C2C1)OC)OC | C11H15NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(3-trifluoromethylphenyl)-2-(4,5-dimethoxyindan-2-yl)aminoethanol | FC(C=1C=C(C=CC1)C(CNC1CC2=CC=C(C(=C2C1)OC)OC)O)(F)F | C20H22F3NO3
